* C:\Users\mitchgu\Documents\6.301\FP\fp.asc
A1 +3.3V 0 N006 0 N007 _one_shot_out one_shot_out 0 DFLOP Vhigh=3.3 Vlow=0 Ref=1.65 Trise=5n Tfall=5n Td=5n
V1 +3.3V 0 3.3
R1 one_shot_out N007 33k
C1 N007 0 0.22µ
S1 0 N007 _one_shot_out 0 simpleSW
XU1 VMID2 N003 +3.3V 0 N006 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C2 N003 N002 2µ
R2 +3.3V N001 10k
S2 N002 N001 _one_shot_out 0 simpleSW
S3 N009 N002 one_shot_out 0 simpleSW
R3 VMID1 +3.3V 10k
R6 0 VMID1 3.9k
Q1 N004 N004 +3.3V 0 PNP
Q2 N005 N004 +3.3V 0 PNP
Q3 N004 N005 N008 0 NPN
Q5 N005 N005 0 0 NPN
Q8 N005 N004 +3.3V 0 PNP
Q9 N005 N004 +3.3V 0 PNP
Q4 N009 N005 0 0 NPN
R4 N008 0 470
R5 VMID2 +3.3V 10k
R7 0 VMID2 4.7k
R8 N006 VMID2 100k
Q6 N004 N005 N008 0 NPN
XU3 VMID1 N002 +3.3V 0 N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.tran 50m uic
.model simpleSW SW(Ron=20 Roff=1G Vt=2.5 Vh=0.0)
* Input Switches
* Integrator
* Comparator
* One-Shot
* Sends a fixed-length pulse after detecting a rising-edge on CLK\nIn the lab, you implement this part on a microcontroller.\n- Use an edge-triggered interrupt to detect the comparator output.\n- Use a counter/timer to generate a fixed-length pulse.\n- Use a counter/time to measure the length of the reference integration time.
* Uses "UniversalOpamp2" model\nGain, BW, and slew rate are set to default
* Important Note:\nUses "UniversalOpamp2" model
* 6.301 Final Project
.inc 6301.bjt
.step temp 0 100 20
* PTAT Current Source
.ic V(n003)=0.6V V(n002)=0.3V
.lib UniversalOpamps2.sub
.backanno
.end
